US07148226B2
[4-(3-Cyclopentyl-3-oxo-propyl)-2-fluoro-phenoxy]-acetonitrile
A mixture of (4-bromo-2-fluorophenoxy)acetonitrile (2.5 g, 10.8 mmol), 1-Cyclopentyl-2-propen-1-ol (2.0 g, 16.2 mmol), dichlorobis (triphenylphosphine) palladium (II) (151 mg, 0.22 mmol), and sodium bicarbonate (1.08 g, 12.9 mmol) in N-methylpyrrolidinone (20 mL) was heated to 140° C. under N2 for 5 hours. The reaction mixture was partitioned between 1N HCl and EtOAc. The organic layer was washed with saturated NaHCO3, brine, dried over Na2SO4 and concentrated to a black oil. The oil was purified by flash column chromatography (Hexanes to 10% EtOAc in hexanes) to give the desired product (2.7 g, 93%). 1H NMR (CDCl3): δ 1.52–1.83 (m, 8H), 2.75 (m, 2H), 2.85 (m, 3H), 4.80 (s, 2H), 6.92–7.06 (m, 3H).

reactant | (4-bromo-2-fluorophenoxy)acetonitrile | 10.8 mmol, 2.5 g | BrC1=CC(=C(OCC#N)C=C1)F | C8H5BrFNO
reactant | 1-Cyclopentyl-2-propen-1-ol | 16.2 mmol, 2.0 g | C1(CCCC1)C(C=C)O | C8H14O
reactant | sodium bicarbonate | 12.9 mmol, 1.08 g | C([O-])(O)=O.[Na+]
solvent | N-methylpyrrolidinone | 20 mL | CN1C(CCC1)=O | C5H9NO
product | [4-(3-Cyclopentyl-3-oxo-propyl)-2-fluoro-phenoxy]-acetonitrile | 2.7 g, 93% | C1(CCCC1)C(CCC1=CC(=C(OCC#N)C=C1)F)=O | C16H18FNO2
